US08044206B2
To a solution of 209 mg of tert-butyl 4-{(E)-2-[4-(butoxycarbonyl)-2,6-dimethylphenyl]vinyl}piperidine-1-carboxylate in 5 ml of ethanol, 1.5 ml of 1N aqueous sodium hydroxide solution was added, followed by stirring at ambient temperature for 3.5 hours. After 1 ml of tetrahydrofuran was added to the reaction mixture, the mixture was stirred at 50° C. overnight. The solvent was evaporated under reduced pressure, water and 1.6 ml of 1N hydrochloric acid were added thereto. The formed precipitates were collected by filtration and dried to give 179 mg of 4-{(E)-2-[1-(tert-butoxycarbonyl)piperidin-4-yl]vinyl}-3,5-dimethylbenzoic acid.

reactant | tert-butyl 4-{(E)-2-[4-(butoxycarbonyl)-2,6-dimethylphenyl]vinyl}piperidine-1-carboxylate | 209 mg | C(CCC)OC(=O)C1=CC(=C(C(=C1)C)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C)C | C25H37NO4
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
product | 4-{(E)-2-[1-(tert-butoxycarbonyl)piperidin-4-yl]vinyl}-3,5-dimethylbenzoic acid | 179 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C1=C(C=C(C(=O)O)C=C1C)C | C21H29NO4
